* File: MULT2.pex.netlist.pex
* Created: Sun Nov 23 20:42:44 2025
* Program "Calibre xACT"
* Version "v2024.4_39.16"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_MULT2_VSS 1 3 5 7 9 11 47 83 96 112 124 128 144 156 160 183 184 185
+ 186 187 188 189 190 191 192 193 194 195 196 233 234 266 267 268 269 270 271
+ 272 307 345
c197 345 0 0.00717467f
c198 307 0 0.0137417f
c199 196 0 0.00179823f
c200 194 0 0.0276948f
c201 193 0 0.00184091f
c202 190 0 0.0277341f
c203 189 0 0.0278847f
c204 186 0 0.0277698f
c205 185 0 0.0278865f
c206 184 0 0.038126f
c207 183 0 0.0381454f
c208 160 0 0.00169107f
c209 156 0 0.0280611f
c210 144 0 0.0032593f
c211 128 0 0.0310454f
c212 124 0 0.0280382f
c213 112 0 0.00297176f
c214 96 0 0.00219306f
c215 83 0 0.0601075f
c216 47 0 0.0838058f
c217 11 0 0.0031323f
c218 9 0 0.00297952f
c219 7 0 0.0020631f
c220 5 0 0.00319979f
c221 3 0 0.00205635f
c222 1 0 0.00189059f
r223 347 348 2.09871
r224 346 347 4.19742
r225 345 348 2.09871
r226 342 346 4.19742
r227 342 343 4.19742
r228 339 343 8.39483
r229 339 340 33.5793
r230 335 340 4.19742
r231 335 336 10.4935
r232 330 331 13.9914
r233 329 333 21.8032
r234 329 331 27.1666
r235 327 330 7.92845
r236 323 324 0.932759
r237 322 323 6.52931
r238 321 324 3.26466
r239 318 322 1.86552
r240 318 319 8.39483
r241 307 308 4.19742
r242 304 308 33.5793
r243 304 305 8.39483
r244 301 305 4.19742
r245 301 302 9.0944
r246 296 299 21.8032
r247 296 297 27.1666
r248 293 297 21.9198
r249 288 291 21.8032
r250 288 289 27.1666
r251 286 289 21.9198
r252 281 282 0.932759
r253 280 281 6.52931
r254 279 284 8.39483
r255 279 282 3.26466
r256 276 280 1.86552
r257 276 277 8.39483
r258 272 302 2.3319
r259 272 299 5.13017
r260 271 293 0.932759
r261 271 291 16.3233
r262 270 336 0.932759
r263 270 333 5.13017
r264 269 327 0.932759
r265 269 321 24.9513
r266 268 286 0.932759
r267 268 284 16.5565
r268 267 319 3.03147
r269 266 277 3.03147
r270 180 196 0.314815
r271 180 195 0.314815
r272 180 181 15.9139
r273 178 307 23.8924
r274 178 181 31.5331
r275 172 194 0.277778
r276 172 173 15.9139
r277 170 301 23.8924
r278 170 173 31.5331
r279 163 342 23.8924
r280 163 164 31.5331
r281 160 193 0.314815
r282 160 192 0.314815
r283 160 164 15.9139
r284 156 191 0.277778
r285 156 157 15.9139
r286 154 296 90.5416
r287 154 157 13.2616
r288 147 335 23.8924
r289 147 148 31.5331
r290 144 190 0.277778
r291 144 148 15.9139
r292 140 189 0.277778
r293 140 141 14.7412
r294 138 293 96.0901
r295 138 141 12.2844
r296 131 329 90.5416
r297 131 132 13.2616
r298 128 188 0.277778
r299 128 132 15.9139
r300 124 187 0.277778
r301 124 125 15.9139
r302 122 288 90.5416
r303 122 125 13.2616
r304 115 327 96.0901
r305 115 116 12.2844
r306 112 186 0.277778
r307 112 116 14.7412
r308 108 185 0.277778
r309 108 109 14.7412
r310 106 286 96.0901
r311 106 109 12.2844
r312 99 318 96.0901
r313 99 100 13.2616
r314 96 184 0.185185
r315 96 100 23.8708
r316 92 183 0.185185
r317 92 93 23.8708
r318 90 276 96.0901
r319 90 93 13.2616
r320 84 85 51.2835
r321 83 345 28.9688
r322 83 85 37.2971
r323 80 81 51.2835
r324 77 78 177.161
r325 76 77 74.5942
r326 75 76 51.2835
r327 74 339 9.65625
r328 74 80 37.2971
r329 74 78 37.2971
r330 72 335 9.48069
r331 72 147 0.294702
r332 72 75 37.2971
r333 69 70 51.2835
r334 68 69 74.5942
r335 67 68 51.2835
r336 66 67 74.5942
r337 65 66 51.2835
r338 64 65 74.5942
r339 63 64 51.2835
r340 59 60 55.9457
r341 58 321 9.65625
r342 58 60 34.966
r343 50 51 51.2835
r344 49 50 74.5942
r345 48 49 177.161
r346 47 307 9.65625
r347 47 178 0.294702
r348 47 51 37.2971
r349 44 45 51.2835
r350 43 304 9.65625
r351 43 48 37.2971
r352 43 45 37.2971
r353 39 40 51.2835
r354 38 39 74.5942
r355 37 38 51.2835
r356 36 37 72.2631
r357 35 36 55.9457
r358 34 35 72.2631
r359 33 34 51.2835
r360 31 293 9.31139
r361 31 33 30.3039
r362 27 28 51.2835
r363 26 27 74.5942
r364 25 26 51.2835
r365 24 25 74.5942
r366 23 24 51.2835
r367 22 23 74.5942
r368 21 22 51.2835
r369 17 18 55.9457
r370 16 279 9.65625
r371 16 18 34.966
r372 11 170 0.294702
r373 11 44 37.2971
r374 10 163 0.294702
r375 10 84 37.2971
r376 10 81 37.2971
r377 9 154 0.294702
r378 9 11 377.633
r379 9 40 37.2971
r380 7 138 0.272986
r381 7 31 8.15874
r382 6 131 0.294702
r383 6 72 377.633
r384 6 70 37.2971
r385 5 122 0.294702
r386 5 7 376.468
r387 5 28 37.2971
r388 4 115 0.272986
r389 4 63 38.4626
r390 4 58 250.59
r391 3 106 0.272986
r392 3 21 38.4626
r393 3 16 250.59
r394 2 99 0.294702
r395 2 59 34.966
r396 1 90 0.294702
r397 1 17 34.966
.ends

.subckt PM_MULT2_VDD 6 8 27 60 65 75 85 91 103 115 119 137 146 154 161 162 163
+ 164 165 166 167 168 169 170 171 172 173 174 218 240 241 242 243 244 308
c213 308 0 0.00124399f
c214 174 0 0.00151662f
c215 172 0 0.0374369f
c216 171 0 0.00151364f
c217 168 0 0.00150228f
c218 167 0 0.0373084f
c219 164 0 0.00143431f
c220 163 0 0.00148661f
c221 162 0 0.0373381f
c222 161 0 0.0374131f
c223 154 0 6.30444e-19
c224 146 0 0.00370912f
c225 137 0 0.00218946f
c226 119 0 0.00368506f
c227 115 0 0.00151202f
c228 103 0 8.5919e-19
c229 91 0 0.00146451f
c230 85 0 0.00587535f
c231 75 0 0.00148079f
c232 65 0 0.00394022f
c233 60 0 0.0843677f
c234 27 0 0.00180752f
c235 8 0 0.00109128f
c236 6 0 0.00183752f
r237 309 310 2.09871
r238 308 310 2.09871
r239 306 309 8.39483
r240 303 306 12.5922
r241 303 304 4.19742
r242 300 304 8.39483
r243 300 301 14.691
r244 296 301 10.4935
r245 296 297 3.96423
r246 293 294 10.7267
r247 292 293 2.09871
r248 290 292 8.39483
r249 286 290 12.5922
r250 286 287 4.19742
r251 283 284 6.29612
r252 282 287 8.39483
r253 282 284 2.79828
r254 279 280 1.86552
r255 278 279 0.23319
r256 277 278 4.19742
r257 276 277 0.23319
r258 275 283 3.49785
r259 275 280 2.09871
r260 272 276 3.96423
r261 265 266 6.06293
r262 264 268 34.1623
r263 264 266 15.0407
r264 261 262 0.466379
r265 260 261 4.19742
r266 259 265 3.26466
r267 259 262 4.4306
r268 256 257 11.1931
r269 253 254 0.932759
r270 252 253 6.52931
r271 251 256 8.39483
r272 251 254 3.26466
r273 248 252 1.86552
r274 248 249 8.39483
r275 244 297 7.92845
r276 244 294 4.66379
r277 243 272 4.89698
r278 243 270 5.59655
r279 242 270 1.39914
r280 242 268 4.66379
r281 241 260 8.86121
r282 241 257 0.699569
r283 240 249 1.63233
r284 157 306 23.8924
r285 157 158 15.6192
r286 154 174 0.185185
r287 154 158 23.8708
r288 149 300 23.8924
r289 149 150 15.6192
r290 146 173 0.185185
r291 146 150 23.8708
r292 141 142 11.1987
r293 140 296 23.8924
r294 140 142 4.42053
r295 137 172 0.185185
r296 137 141 23.8708
r297 133 134 11.1987
r298 132 171 0.185185
r299 132 134 23.8708
r300 130 290 23.8924
r301 130 133 4.42053
r302 123 124 11.1987
r303 122 286 96.0901
r304 122 124 2.06291
r305 119 170 0.185185
r306 119 123 23.8708
r307 115 169 0.185185
r308 115 116 23.8708
r309 113 282 96.0901
r310 113 116 13.2616
r311 106 275 96.0901
r312 106 107 13.2616
r313 103 168 0.185185
r314 103 107 23.8708
r315 99 167 0.185185
r316 99 100 23.8708
r317 97 272 96.0901
r318 97 100 13.2616
r319 91 166 0.185185
r320 91 92 22.1119
r321 85 165 0.185185
r322 85 89 22.1119
r323 81 164 0.185185
r324 81 82 22.1119
r325 75 163 0.185185
r326 75 78 22.1119
r327 71 162 0.185185
r328 71 72 23.8708
r329 65 161 0.185185
r330 65 69 23.8708
r331 61 62 51.2835
r332 60 308 28.9688
r333 60 62 37.2971
r334 57 58 51.2835
r335 54 303 9.65625
r336 54 57 37.2971
r337 54 55 37.2971
r338 51 52 74.5942
r339 50 51 51.2835
r340 47 48 165.506
r341 46 47 51.2835
r342 45 296 9.65625
r343 45 140 0.294702
r344 45 50 37.2971
r345 45 48 123.547
r346 42 43 51.2835
r347 38 39 51.2835
r348 35 36 53.6146
r349 34 35 2.33107
r350 31 32 51.2835
r351 28 29 51.2835
r352 27 272 9.14803
r353 27 97 0.294702
r354 27 31 37.2971
r355 27 29 414.93
r356 24 25 51.2835
r357 23 24 74.5942
r358 22 23 51.2835
r359 19 20 51.2835
r360 16 17 55.9457
r361 15 251 9.31139
r362 15 19 289.053
r363 15 17 34.966
r364 11 157 0.294702
r365 11 61 37.2971
r366 11 58 37.2971
r367 10 149 0.294702
r368 10 55 88.5806
r369 10 52 88.5806
r370 8 130 0.294702
r371 8 46 37.2971
r372 8 43 37.2971
r373 7 286 9.65625
r374 7 122 0.294702
r375 7 42 37.2971
r376 7 39 37.2971
r377 6 113 0.294702
r378 6 38 37.2971
r379 6 36 34.966
r380 5 106 0.294702
r381 5 34 34.966
r382 5 32 37.2971
r383 3 264 15.2057
r384 3 92 14.7412
r385 3 89 14.7412
r386 3 28 36.1316
r387 3 25 38.4626
r388 2 259 16.458
r389 2 82 14.7412
r390 2 78 14.7412
r391 2 22 38.4626
r392 2 20 36.1316
r393 1 248 19.38
r394 1 72 15.9139
r395 1 69 15.9139
r396 1 16 34.966
.ends

.subckt PM_MULT2_B<1> 2 5 16 19 20 21 22 23 38 43 46 49 53 56 67 76 83 91 92 94
+ 99
c107 99 0 0.00190139f
c108 94 0 6.20848e-19
c109 92 0 9.38271e-19
c110 91 0 0.00241205f
c111 83 0 5.34835e-19
c112 76 0 4.67063e-19
c113 67 0 0.0022148f
c114 63 0 9.68653e-19
c115 56 0 0.00115948f
c116 53 0 0.00126532f
c117 49 0 0.00179403f
c118 46 0 2.36366e-19
c119 43 0 0.00296437f
c120 38 0 0.00386307f
c121 21 0 0.00145754f
c122 20 0 1.17322e-19
c123 16 0 0.0209848f
c124 5 0 0.0041259f
c125 2 0 0.00262209f
r126 99 100 2.09871
r127 97 100 4.89698
r128 92 94 26.3504
r129 91 92 1.02627
r130 90 99 0.107873
r131 90 91 22.3862
r132 86 87 4.08576
r133 83 87 1.7024
r134 79 80 4.08576
r135 76 80 1.7024
r136 73 74 0.932759
r137 72 74 2.3319
r138 67 97 19.535
r139 67 68 1.83153
r140 64 68 1.09892
r141 59 60 3.4048
r142 58 59 4.93696
r143 57 76 0.107873
r144 57 58 0.8512
r145 56 83 0.107873
r146 56 60 5.78816
r147 54 72 0.00953073
r148 54 55 0.34048
r149 53 76 0.107873
r150 53 55 5.78816
r151 51 94 19.535
r152 49 73 2.56509
r153 49 51 3.66306
r154 46 47 4.4306
r155 44 63 0.202133
r156 44 47 6.06293
r157 43 64 0.28826
r158 42 63 0.777784
r159 42 43 17.9556
r160 40 63 0.777784
r161 38 40 9.79397
r162 16 86 13.9698
r163 16 23 28.9286
r164 13 79 16.458
r165 5 46 19.38
r166 5 19 24.1072
r167 5 21 24.1072
r168 2 22 29.1072
r169 2 20 23.9286
r170 2 13 0.295362
.ends

.subckt PM_MULT2_A<1> 5 11 16 19 20 21 22 23 38 45 48 60 69 75 84 92
c109 92 0 0.00200589f
c110 84 0 0.00165945f
c111 75 0 0.00233985f
c112 69 0 0.00165968f
c113 60 0 9.62288e-19
c114 48 0 0.00127718f
c115 45 0 5.84773e-19
c116 38 0 0.0101777f
c117 23 0 0.0169376f
c118 22 0 1.43072e-19
c119 19 0 0.00155936f
c120 16 0 0.00303612f
c121 11 0 0.00305889f
c122 5 0 0.00413626f
r123 89 92 6.06293
r124 87 88 0.699569
r125 86 87 3.49785
r126 85 86 1.16595
r127 84 85 25.4177
r128 83 88 9.56078
r129 82 89 0.107873
r130 82 84 10.2603
r131 80 81 32.6466
r132 79 80 6.99569
r133 77 79 3.03147
r134 75 83 1.02627
r135 75 81 11.6595
r136 72 73 1.87264
r137 69 73 4.08576
r138 65 66 1.83153
r139 64 92 19.535
r140 64 66 1.34312
r141 60 65 1.09892
r142 51 52 2.44204
r143 50 51 3.54096
r144 49 64 0.107873
r145 49 50 0.488408
r146 48 72 0.019063
r147 48 52 4.15147
r148 45 46 4.4306
r149 43 46 5.13017
r150 38 77 19.535
r151 38 43 0.312283
r152 16 69 13.9698
r153 16 23 28.9286
r154 11 60 14.0673
r155 5 45 19.38
r156 5 21 24.1072
r157 5 19 24.1072
r158 2 20 23.9286
r159 2 22 29.1072
r160 2 11 0.295362
.ends

.subckt PM_MULT2_NET7 4 8 15 18 22 27 28 29 39 43 49 52 57 62 64 72 78 81 82 83
c73 83 0 3.67801e-19
c74 82 0 5.08626e-19
c75 81 0 3.84059e-19
c76 78 0 7.11512e-19
c77 72 0 1.86509e-19
c78 64 0 4.00458e-19
c79 62 0 6.08914e-19
c80 57 0 0.00148991f
c81 52 0 0.00207129f
c82 49 0 6.01458e-19
c83 29 0 4.4025e-20
c84 28 0 0.0115351f
c85 22 0 0.0402982f
c86 18 0 0.0443231f
c87 15 0 0.00194422f
c88 8 0 0.00176871f
c89 4 0 0.00194793f
r90 86 87 4.00064
r91 83 87 1.53216
r92 78 79 2.09871
r93 76 79 4.19742
r94 72 73 2.09871
r95 70 73 4.19742
r96 67 68 1.16595
r97 66 67 5.13017
r98 65 82 0.848286
r99 65 66 7.69526
r100 64 83 0.203415
r101 64 68 6.52931
r102 61 62 1.53216
r103 59 82 0.145446
r104 59 62 4.256
r105 58 81 0.202133
r106 57 82 0.848286
r107 57 58 20.7539
r108 55 56 0.932759
r109 54 55 8.39483
r110 53 54 8.62802
r111 52 53 4.19742
r112 51 78 0.107873
r113 51 56 0.932759
r114 50 81 0.777784
r115 50 52 5.82974
r116 48 81 0.777784
r117 48 49 6.7625
r118 47 72 0.107873
r119 47 49 0.699569
r120 25 76 19.38
r121 22 43 0.185185
r122 22 25 18.5662
r123 18 39 0.185185
r124 15 70 19.38
r125 15 18 15.0298
r126 8 86 15.1484
r127 4 61 16.458
r128 4 28 28.9286
r129 2 27 27.6786
r130 2 29 25.3572
r131 2 8 0.295362
.ends

.subckt PM_MULT2_NET10 1 2 4 17 20 23 29 30 31 41 45 51 58 59 63 64 72 81 86
c77 86 0 6.01206e-19
c78 81 0 4.91062e-19
c79 72 0 5.62832e-19
c80 64 0 3.80084e-19
c81 63 0 8.71979e-19
c82 59 0 9.44338e-19
c83 58 0 4.32116e-19
c84 51 0 0.00132513f
c85 29 0 5.51397e-19
c86 23 0 0.0463802f
c87 20 0 0.0370757f
c88 17 0 0.00284697f
c89 4 0 0.00242603f
c90 2 0 0.00126789f
c91 1 0 0.0113197f
r92 91 92 3.57504
r93 90 92 1.53216
r94 86 91 0.4256
r95 83 84 1.53216
r96 81 84 2.04288
r97 78 79 2.09871
r98 76 79 4.19742
r99 72 73 2.09871
r100 70 73 4.19742
r101 67 68 1.39914
r102 66 67 4.66379
r103 65 83 0.203415
r104 65 66 7.92845
r105 64 90 0.203415
r106 64 68 6.52931
r107 62 63 0.51072
r108 61 83 1.53216
r109 61 63 4.93696
r110 59 78 2.09871
r111 59 60 11.1931
r112 58 62 1.02998
r113 58 60 9.56078
r114 56 57 0.932759
r115 55 56 4.19742
r116 54 55 3.49785
r117 53 54 5.59655
r118 52 53 5.13017
r119 51 52 2.79828
r120 50 78 0.107873
r121 50 57 16.5565
r122 49 72 0.107873
r123 49 51 1.86552
r124 27 76 19.38
r125 23 41 0.185185
r126 23 27 15.0298
r127 20 45 0.185185
r128 17 70 19.38
r129 17 20 18.5662
r130 13 86 15.1484
r131 4 81 16.458
r132 2 31 25.3572
r133 2 29 27.6786
r134 2 13 0.295362
r135 1 30 20.8929
r136 1 4 0.295362
.ends

.subckt PM_MULT2_NET24 4 8 14 20 25 26 27 37 38 41 42 45 50 58 61 65 70 72 78 79
c94 79 0 4.46485e-19
c95 78 0 5.44053e-19
c96 77 0 7.56906e-19
c97 72 0 4.63074e-20
c98 70 0 4.28201e-19
c99 65 0 0.00165754f
c100 61 0 0.00274281f
c101 58 0 8.59155e-19
c102 50 0 0.00158942f
c103 45 0 0.00189218f
c104 42 0 9.362e-19
c105 38 0 0.00618143f
c106 27 0 8.28419e-19
c107 26 0 0.0115488f
c108 20 0 0.0017106f
c109 14 0 0.00137145f
c110 8 0 0.00136088f
c111 4 0 0.0018892f
r112 82 83 4.00064
r113 79 83 1.53216
r114 75 76 0.932759
r115 74 75 5.59655
r116 73 78 0.848286
r117 73 74 7.46207
r118 72 79 0.203415
r119 72 76 6.52931
r120 69 70 1.53216
r121 67 78 0.145446
r122 67 70 4.256
r123 66 77 0.259647
r124 65 78 0.848286
r125 65 66 20.5207
r126 63 64 5.9584
r127 62 63 6.29888
r128 61 62 3.23456
r129 60 64 0.17024
r130 59 77 0.711867
r131 59 61 4.08576
r132 58 77 0.711867
r133 57 58 4.93696
r134 55 56 3.4048
r135 54 55 5.78816
r136 52 54 6.384
r137 50 57 1.02627
r138 50 56 14.9811
r139 47 49 15.6621
r140 45 60 1.02627
r141 45 49 14.9811
r142 23 47 11.934
r143 20 42 0.209877
r144 20 41 0.209877
r145 20 23 14.4404
r146 17 38 0.314815
r147 17 37 0.314815
r148 14 52 12.9034
r149 14 17 5.89404
r150 8 82 15.1484
r151 4 69 16.458
r152 4 26 28.9286
r153 2 25 27.6786
r154 2 27 25.3572
r155 2 8 0.295362
.ends

.subckt PM_MULT2_B<0> 4 8 11 12 13 23 26 33 34 42
c55 42 0 0.00204157f
c56 34 0 0.00136402f
c57 33 0 6.11279e-21
c58 26 0 0.00306753f
c59 11 0 0.00267863f
c60 8 0 0.00529109f
c61 4 0 0.00278998f
r62 46 47 3.49785
r63 45 46 0.699569
r64 44 45 11.8927
r65 42 44 2.09871
r66 40 47 2.79828
r67 38 39 10.4935
r68 37 38 2.09871
r69 36 37 4.19742
r70 35 36 6.29612
r71 34 35 2.09871
r72 33 40 1.02627
r73 33 39 8.39483
r74 30 31 5.13017
r75 26 30 5.36336
r76 24 34 1.02627
r77 24 32 6.29612
r78 23 32 3.73104
r79 23 31 0.466379
r80 8 42 19.38
r81 8 13 19.2857
r82 4 26 19.38
r83 4 12 19.2857
r84 4 11 24.1072
.ends

.subckt PM_MULT2_NET29 4 9 13 19 24 25 26 36 37 40 41 44 49 56 58 61 69 79 85 90
+ 91 93
c125 93 0 0.00181505f
c126 91 0 6.11708e-19
c127 90 0 6.16282e-19
c128 85 0 0.00119062f
c129 79 0 6.43732e-19
c130 69 0 6.01242e-19
c131 61 0 7.2318e-19
c132 58 0 0.00321684f
c133 56 0 0.00210499f
c134 49 0 7.64204e-19
c135 44 0 0.00127803f
c136 41 0 9.48425e-19
c137 37 0 0.00694998f
c138 26 0 0.013559f
c139 25 0 4.35441e-19
c140 19 0 0.00144932f
c141 13 0 0.00177517f
c142 9 0 0.00226375f
c143 4 0 9.56741e-19
r144 91 93 15.8323
r145 89 91 1.02998
r146 89 90 35.678
r147 85 90 1.02998
r148 85 87 4.59648
r149 82 83 1.87264
r150 79 83 4.08576
r151 74 75 1.41351
r152 73 93 14.0816
r153 73 76 0.0942339
r154 73 75 0.942339
r155 69 74 0.848105
r156 67 87 14.0816
r157 64 65 2.44204
r158 63 64 3.54096
r159 62 76 0.186932
r160 62 63 0.366306
r161 61 82 0.019063
r162 61 65 4.15147
r163 59 60 7.15008
r164 58 59 9.19296
r165 57 60 4.93696
r166 56 67 0.946878
r167 56 58 1.19168
r168 54 55 3.4048
r169 53 54 5.78816
r170 51 53 6.384
r171 49 57 1.02627
r172 49 55 14.9811
r173 46 48 15.6621
r174 44 67 1.6517
r175 44 48 14.9811
r176 22 51 12.9034
r177 19 37 0.314815
r178 19 36 0.314815
r179 19 22 5.89404
r180 16 41 0.209877
r181 16 40 0.209877
r182 13 46 11.934
r183 13 16 14.4404
r184 9 79 13.9698
r185 9 26 28.9286
r186 4 69 12.075
r187 1 24 23.9286
r188 1 25 29.1072
r189 1 4 0.207209
.ends

.subckt PM_MULT2_A<0> 2 8 9 10 20
c30 20 0 4.80297e-19
c31 8 0 7.70357e-20
c32 2 0 0.0108246f
r33 20 24 7.69526
r34 4 24 19.38
r35 4 9 19.2857
r36 4 8 24.1072
r37 2 10 19.2857
r38 2 4 53.8039
.ends

.subckt PM_MULT2_XI2.NET2 3 7 13 17 18 24 25 28 29 32 41 44 46 53 58 61
c65 61 0 3.73689e-19
c66 58 0 3.30462e-19
c67 53 0 6.9732e-19
c68 46 0 0.0018923f
c69 44 0 2.64883e-19
c70 41 0 6.37534e-19
c71 32 0 0.00118689f
c72 29 0 8.77413e-19
c73 25 0 0.00240287f
c74 17 0 0.0028802f
c75 13 0 0.00120392f
c76 7 0 7.89984e-19
c77 3 0 0.00129109f
r78 58 59 2.09871
r79 56 59 4.19742
r80 52 53 2.09871
r81 50 53 6.99569
r82 48 49 4.19742
r83 47 61 0.202133
r84 47 48 8.39483
r85 46 50 1.02627
r86 46 49 8.39483
r87 44 45 7.46207
r88 43 58 0.107873
r89 43 45 5.13017
r90 42 61 0.777784
r91 42 44 6.99569
r92 40 61 0.777784
r93 40 41 4.19742
r94 39 41 2.56509
r95 37 38 2.09871
r96 36 37 4.19742
r97 34 36 4.19742
r98 32 39 1.02627
r99 32 38 6.29612
r100 13 56 19.38
r101 13 25 0.314815
r102 13 24 0.314815
r103 10 29 0.209877
r104 10 28 0.209877
r105 7 34 19.38
r106 7 10 16.2086
r107 3 52 19.38
r108 3 18 19.2857
r109 3 17 24.1072
.ends

.subckt PM_MULT2_Y<0> 4 8 12 15 18 23 24 25 35 39 43 47 49 51 54 61 64 73 81 87
+ 95
c95 95 0 0.00384072f
c96 87 0 8.20507e-19
c97 81 0 5.36008e-19
c98 73 0 0.0011456f
c99 64 0 6.11279e-21
c100 61 0 1.5228e-19
c101 54 0 0.00114511f
c102 51 0 0.00193187f
c103 49 0 9.72002e-19
c104 47 0 0.00248562f
c105 25 0 9.18567e-19
c106 24 0 0.00277779f
c107 18 0 0.0338271f
c108 15 0 0.0369931f
c109 12 0 0.00209643f
c110 8 0 0.00146182f
c111 4 0 0.00132572f
r112 99 100 4.66379
r113 98 100 30.781
r114 95 99 22.2696
r115 91 92 1.63233
r116 87 91 2.09871
r117 85 86 2.51107
r118 81 82 2.09871
r119 79 82 4.19742
r120 75 76 11.8927
r121 74 75 0.699569
r122 73 74 3.49785
r123 72 76 2.09871
r124 70 73 2.79828
r125 68 69 10.4935
r126 67 68 2.09871
r127 66 67 4.19742
r128 65 87 0.107873
r129 65 66 8.39483
r130 64 70 1.02627
r131 64 69 8.39483
r132 61 62 8.39483
r133 60 62 2.09871
r134 58 93 0.699569
r135 58 61 3.49785
r136 56 95 17.9848
r137 54 93 1.98211
r138 54 92 2.68168
r139 54 56 4.69404
r140 51 98 19.535
r141 51 52 3.05255
r142 49 86 0.774716
r143 49 52 2.31994
r144 45 81 0.107873
r145 45 48 11.8927
r146 44 86 0.192122
r147 44 47 6.06293
r148 43 48 5.13017
r149 43 47 10.2603
r150 21 79 19.38
r151 18 35 0.277778
r152 18 21 8.84105
r153 15 39 0.185185
r154 12 85 19.38
r155 12 15 16.798
r156 8 72 19.38
r157 8 25 19.2857
r158 4 60 19.38
r159 4 23 24.1072
r160 4 24 19.2857
.ends

.subckt PM_MULT2_NET17 2 9 15 20 21 22 32 33 36 37 40 45 54 59 60 68 71
c89 71 0 5.29947e-19
c90 68 0 3.61521e-19
c91 60 0 0.0010914f
c92 59 0 5.43402e-19
c93 54 0 0.00231853f
c94 45 0 8.8188e-19
c95 40 0 0.00174638f
c96 37 0 4.85993e-19
c97 33 0 0.00358338f
c98 22 0 0.00458874f
c99 15 0 3.41747e-19
c100 9 0 6.68924e-19
c101 2 0 0.00109873f
r102 68 70 2.09871
r103 66 70 6.29612
r104 64 65 2.09871
r105 63 64 4.19742
r106 62 63 13.2918
r107 61 71 0.259647
r108 61 62 7.46207
r109 60 66 1.02627
r110 60 65 6.29612
r111 58 71 0.711867
r112 58 59 4.59648
r113 56 57 3.23456
r114 55 56 7.15008
r115 54 55 1.36192
r116 53 71 0.711867
r117 53 57 4.59648
r118 52 54 3.57504
r119 50 51 3.4048
r120 49 50 5.78816
r121 47 49 6.384
r122 45 52 1.02627
r123 45 51 14.9811
r124 42 44 21.9198
r125 40 59 1.02998
r126 40 44 20.5207
r127 18 42 19.38
r128 15 37 0.209877
r129 15 36 0.209877
r130 15 18 13.2616
r131 12 33 0.314815
r132 12 32 0.314815
r133 9 47 12.9034
r134 9 12 5.89404
r135 4 68 19.38
r136 4 20 24.1072
r137 4 21 19.2857
r138 2 22 19.2857
r139 2 4 53.8039
.ends

.subckt PM_MULT2_XI3.NET2 3 7 13 17 18 24 25 28 29 32 40 43 44 50 56 59
c63 59 0 3.15955e-19
c64 56 0 3.09767e-19
c65 50 0 3.43048e-19
c66 44 0 0.00116689f
c67 43 0 4.88769e-19
c68 40 0 4.0741e-19
c69 32 0 1.19852e-19
c70 29 0 8.09778e-19
c71 25 0 0.00212502f
c72 18 0 0.00308301f
c73 13 0 8.22465e-19
c74 7 0 4.4618e-19
c75 3 0 0.00139648f
r76 56 57 2.09871
r77 54 57 4.19742
r78 50 52 2.09871
r79 48 52 6.99569
r80 46 47 4.19742
r81 45 59 0.202133
r82 45 46 8.39483
r83 44 48 1.02627
r84 44 47 8.39483
r85 42 59 0.777784
r86 42 43 6.7625
r87 40 41 4.19742
r88 39 59 0.777784
r89 39 41 6.99569
r90 38 56 0.107873
r91 38 40 8.39483
r92 36 37 2.09871
r93 34 36 8.39483
r94 32 43 1.02627
r95 32 37 6.29612
r96 13 54 19.38
r97 13 25 0.314815
r98 13 24 0.314815
r99 10 34 19.38
r100 7 29 0.209877
r101 7 28 0.209877
r102 7 10 16.2086
r103 3 50 19.38
r104 3 17 24.1072
r105 3 18 19.2857
.ends

.subckt PM_MULT2_Y<1> 2 5 8 13 17 21 25 30 36
c22 36 0 5.29484e-19
c23 30 0 6.81795e-19
c24 25 0 0.00280671f
c25 8 0 0.0393661f
c26 5 0 0.0307837f
c27 2 0 0.00246291f
r28 36 37 2.09871
r29 34 37 4.19742
r30 30 31 2.09871
r31 28 31 4.19742
r32 23 36 0.107873
r33 23 26 6.99569
r34 22 30 0.107873
r35 22 25 11.8927
r36 21 26 11.4263
r37 21 25 3.96423
r38 11 34 19.38
r39 8 17 0.185185
r40 8 11 16.798
r41 5 13 0.277778
r42 2 28 19.38
r43 2 5 8.84105
.ends

.subckt PM_MULT2_XI4.NET7 1 2
c3 2 0 0.00162413f
r4 1 2 0.62963
.ends

.subckt PM_MULT2_XI5.NET7 1 2
c3 2 0 0.00164319f
r4 1 2 0.62963
.ends

.subckt PM_MULT2_XI4.NET1 1 2
c3 2 0 0.00155958f
r4 1 2 0.62963
.ends

.subckt PM_MULT2_XI5.NET1 1 2
c3 2 0 0.00155968f
r4 1 2 0.62963
.ends

.subckt PM_MULT2_XI6.NET7 1 2
c3 2 0 0.00166548f
r4 1 2 0.62963
.ends

.subckt PM_MULT2_XI2.NET1__2 1 2
c2 2 0 0.00147033f
r3 1 2 0.62963
.ends

.subckt PM_MULT2_XI6.NET1 1 2
c3 2 0 0.00156347f
r4 1 2 0.62963
.ends

.subckt PM_MULT2_XI2.NET1 1 2
c2 2 0 0.00126533f
r3 1 2 0.62963
.ends

.subckt PM_MULT2_XI3.NET1__2 1 2
c2 2 0 0.00142189f
r3 1 2 0.62963
.ends

.subckt PM_MULT2_XI3.NET1 1 2
c2 2 0 0.0012273f
r3 1 2 0.62963
.ends

